US05670505
To a mixture of N2 -(tert-butoxycarbonyl)-N1 -formyl-D-tryptophan (3.99 g) and N-benzyl glycin benzyl ester hydrochloride (3.50 g) in dichloromethane (70 ml) was added triethylamine (5.85 ml) under nitrogen atmosphere. To the mixture was added 2-chloro-1-methylpyridinium iodide (3.67 g) at room temperature, and the resulting mixture was stirred for 2 hours. After the reaction was completed, dichloromethane (30 ml) and water (30 ml) were added. The organic layer was separated, washed with 0.5N hydrochloric acid (10 ml), water (10 ml), aqueous sodium bicarbonate solution (10 ml) and brine (20 ml) successively and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified on a silica gel column (140 g) eluting with a mixture of toluene and ethyl acetate (4:1) to give (2R)-N-benzyl-N-benzyloxycarbonylmethyl-2-(tert-butoxycarbonylamino)-3-(N-formyl-1H-indol-3-yl)propanamide (6.41 g) as an oil.

reactant | N2 (tert-butoxycarbonyl)-N1 -formyl-D-tryptophan | 3.99 g | N#N.C(C)(C)(C)OC(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O
reactant | N-benzyl glycin benzyl ester hydrochloride | 3.50 g | Cl.C(C1=CC=CC=C1)OC(CNCC1=CC=CC=C1)=O
reactant | triethylamine | 5.85 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 3.67 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | (2R)-N-benzyl-N-benzyloxycarbonylmethyl-2-(tert-butoxycarbonylamino)-3-(N-formyl-1H-indol-3-yl)propanamide | 6.41 g | C(C1=CC=CC=C1)N(C([C@@H](CC1=CN(C2=CC=CC=C12)C=O)NC(=O)OC(C)(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C33H35N3O6
